* C:\Users\jblan\Google Drive\Electronics Lab\Lab4\GivenDocuments\Lab_4_BJT_Curve_Trace_ (1).asc
Q1 N001 N002 0 0 2N2222
I1 0 N002 0
V1 N001 0 0
.model NPN NPN
.model PNP PNP
.lib C:\Users\jblan\Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc V1 0 1.5 0.01 I1 0.0001 0.001 0.0001
.backanno
.end
