* source LAB 3
X_M4         N15724 N15354 N15693 2N7000/FAI
V_V1         N15724 0 6Vdc
V_V2         N15354 0 6Vdc
R_R1         N15693 0  1k TC=0,0 
